US09334269B2
To 4,6-dichloropyrimidine (500.0 mg, 3.36 mmol) and 3-amino-N-methylbenzamide (504 mg, 3.36 mmol) in 2-propanol (5.00 mL) at RT was added N,N-diisopropylethylamine (0.877 mL, 5.03 mmol). The resulting reaction mixture was heated at 80° C. for 3 days, cooled to RT, concentrated, purified using MPLC (25 g cartridge, 40 g column, 0 to 100% EtOAc-hexanes then 30-100% 90:10 CH2Cl2-MeOH in CH2Cl2). Fractions with product were combined and concentrated giving 3-(6-chloropyrimidin-4-ylamino)-N-methylbenzamide (815.2 mg).

reactant | 4,6-dichloropyrimidine | 3.36 mmol, 500.0 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 3-amino-N-methylbenzamide | 3.36 mmol, 504 mg | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
reactant | N,N-diisopropylethylamine | 5.03 mmol, 0.877 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 2-propanol | 5.00 mL | CC(C)O | C3H8O
product | 3-(6-chloropyrimidin-4-ylamino)-N-methylbenzamide | 815.2 mg | ClC1=CC(=NC=N1)NC=1C=C(C(=O)NC)C=CC1 | C12H11ClN4O
